US07834028B2
To a suspension of sodium hydride (215 mg, 4.92 mmol) in dimethoxyethane (3 ml) was added dropwise a solution of diethyl malonate (868 mg, 5.42 mmol) in dimethoxyethane (2 ml) in an inert atmosphere at rt. Stirring was continued for 1 h followed by the addition of a solution of 2-fluoro-3-methyl-benzylbromide (1 g, 4.92 mmol) in dimethoxyethane (15 ml). The reaction mixture was refluxed for 90 minutes, cooled again to rt and water (5 ml) was carefully added. The diemthoxyethane was removed under reduced pressure, DCM (100 ml) was added and the organic layer was washed with water (100 ml), dried over magenisum sulfate, filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography (silicagel, DCM/heptane=4/1) to give 973 mg (70%) of 2-(2-fluoro-3-methyl-benzyl)-malonic acid diethyl ester. LC-MS: tR=1.03 min; [M+H]+=283.22.

reactant | sodium hydride | 4.92 mmol, 215 mg | [H-].[Na+]
reactant | diethyl malonate | 5.42 mmol, 868 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-fluoro-3-methyl-benzylbromide | 4.92 mmol, 1 g | FC1=C(CBr)C=CC=C1C | C8H8BrF
reactant | water | 5 ml | O | H2O
solvent | dimethoxyethane | 3 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 2 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | 2-(2-fluoro-3-methyl-benzyl)-malonic acid diethyl ester | 973 mg, 70% | C(C)OC(C(C(=O)OCC)CC1=C(C(=CC=C1)C)F)=O | C15H19FO4
